US05412079
120 ml of water and sodium hydroxide (14.00 g, 0.35 mol) were placed in a conical flask and dissolved. 4,4'-Dihydroxybiphenyl (28.00 g, 0.15 mol) was then added and heated to reflux for 2 hours with stirring using a condenser. Dimethyl sulfate (14.5 ml, 0.15 mol) was added dropwise over about 40 minutes. After addition, the mixture was heated while stirring for 2 hours, and then allowed to cool and filtrated. The filter cake was transferred into 700 ml of water, which was then heated to boiling temperature, and filtrated while still keeping warm. The filtrate was kept at 70° C., and 20% hydrochloric acid was added. White precipitation: formed was washed extensively. Recrystallization from ethanol yielded 4'-methoxy-4-hydroxybiphenyl (13.17 g, Yield: 48.0%).

reactant | sodium hydroxide | 0.35 mol, 14.00 g | [OH-].[Na+]
reactant | 4,4'-Dihydroxybiphenyl | 0.15 mol, 28.00 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | Dimethyl sulfate | 0.15 mol, 14.5 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 120 ml | O | H2O
product | 4'-methoxy-4-hydroxybiphenyl | 13.17 g, Yield: 48.0% | COC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O2
